US07402680B2
1-Benzyl-2-methyl-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (89.4 mg) was prepared from 0.51 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 272 μL of benzylamine, and 0.41 g of (2-nitro-propenyl)-benzene. MS (ESI): exact mass calculated for C21H22N2, 302.18; found, m/z 303.2 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.41-7.36 (m, 2H), 7.35-7.30 (m, 2H), 7.28-7.21 (m, 4H), 7.05-7.01 (m, 2H), 5.16 (s, 2H), 4.18 (s, 2H), 3.52 (t, J=6.3 Hz, 2H), 2.89 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.51 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 272 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | (2-nitro-propenyl)-benzene | 0.41 g | [N+](=O)([O-])C(=CC1=CC=CC=C1)C | C9H9NO2
product | 1-Benzyl-2-methyl-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 89.4 mg | C(C1=CC=CC=C1)N1C(=C(C=2CNCCC21)C2=CC=CC=C2)C | C21H22N2
